US08247430B2
3-methyl-3-(4-nitrophenyl)butan-1-one
To a stirred solution of methyl 2-methyl-2-(4-nitrophenyl)propionate (5.32 g, 23.8 mmol) in THF (200 mL) at 0° C. was added a solution of 1M BH3 in THF (25.8 mL, 45.8 mmol). The reaction was stirred at RT overnight and was quenched with MeOH. THF was evaporated under reduced pressure and the residue was diluted in EtOAc and aqueous HCl (1M) was added. The mixture was extracted with EtOAc, the organic layer was dried over MgSO4 and evaporated under reduced pressure. Purification by flash chromatography using 40% EtOAc-hexane gave a yellow solid. To the yellow solid (2.08 g, 10.8 mmol) at 0° C. in CH2Cl2 was added NMO (1.9 g, 16.1 mmol), molecular sieves 4 Å and TPAP (76 mg, 0.2 mmol). The reaction was stirred for 1 h and filtered on a silica pad. Solvent was evaporated under reduced pressure, forming the crude aldehyde which was used as is. To a suspension of methoxymethyltriphenylphosphonium chloride (6.4 g, 18.6 mmol) in THF (150 mL) was added a solution of KHMDS 0.5 M in toluene (37 mL, 18.5 mmol). The mixture was stirred for 30 min and crude aldehyde was added. The reaction was stirred at RT for 1 h and quenched with H2O. The mixture was extracted with EtOAc, dried and evaporated under reduced pressure. Et2O was added and a precipitate formed, which was filtered on a silica pad and rinsed with 40% EtOAc-hexane. The solvent was removed and crude material was dissolved in CH2Cl2. A solution of TFA-H2O (1:1, 10 mL) was added and the reaction was stirred for 2 h at RT. Aqueous NaHCO3 was added until pH 7 and the mixture was extracted with CH2Cl2. The organic layer was dried, filtered and evaporated. Crude compound was purified by flash chromatography (40% EtOAc-hexane) to give the title compound as a yellow oil.

reactant | methyl 2-methyl-2-(4-nitrophenyl)propionate | 23.8 mmol, 5.32 g | CC(C(=O)OC)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C11H13NO4
reactant | NMO | 16.1 mmol, 1.9 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | methoxymethyltriphenylphosphonium chloride | 18.6 mmol, 6.4 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | KHMDS | 0.5 M | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | toluene | 18.5 mmol, 37 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | TPAP | 0.2 mmol, 76 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
solvent | THF | 45.8 mmol, 25.8 mL | C1CCOC1 | C4H8O
product | 3-methyl-3-(4-nitrophenyl)butan-1-one | CC(CC=O)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C11H13NO3
